US07256199B1
Preparation of 2-(3-pyridyl)-6-(4-pyridyl)pyrimidin-4-one (Compound 125)
ethyl 3-(4-pyridyl)-3-oxopropionate (0.60 g), 3-amidinopyridine hydrochloride (0.54 g) and potassium carbonate (1.15 g) were added to 5 ml of ethanol, and the mixture was heated under reflux at 75° C. for 20 hours. Acetic acid was added to the reaction mixture, and the solvent was removed by distillation. The residue was added with water and then with acetic acid, and the resulting solid was separated by filtration, washed with water and ethyl acetate, and dried to obtain 0.39 g of the desired compound.

reactant | ethyl 3-(4-pyridyl)-3-oxopropionate | 0.60 g | N1=CC=C(C=C1)C(CC(=O)OCC)=O | C10H11NO3
reactant | 3-amidinopyridine hydrochloride | 0.54 g | Cl.C(N)(=N)C=1C=NC=CC1
reactant | potassium carbonate | 1.15 g | C([O-])([O-])=O.[K+].[K+]
reactant | ethanol | 5 ml | C(C)O | C2H6O
solvent | Acetic acid | C(C)(=O)O | C2H4O2
product | 2-(3-pyridyl)-6-(4-pyridyl)pyrimidin-4-one | 0.39 g, Yield: 50% | N1=CC(=CC=C1)C1=NC(=CC(N1)=O)C1=CC=NC=C1 | C14H10N4O
